US09260414B2
((S)-1-{(S)-2-[4-(4′-Amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester
To a mixture of 4-(benzyloxycarbonylamino)phenylboronic acid (1.57 g, 5.79 mmol) and ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (1.74 g, 3.86 mmol) in N,N-dimethylformamide (30 mL, 400 mmol) was added water (21.91 mL, 1216 mmol) and sodium bicarbonate (2.43 g, 28.96 mmol). The resulting mixture was purged with nitrogen. Tetrakis(triphenylphosphine)palladium(0) (468 mg, 0.41 mmol) was added. The reaction mixture was purged with nitrogen and then heated at 90° C. overnight. The reaction mixture was cooled to RT, diluted with methanol (10 mL), then filtered. The filtrate was concentrated and the crude product was purified by preparative HPLC to give a white solid. (1.28 g) The crude material was dissolved in methanol (40 mL) and then pumped through a continuous flow hydrogenator at 70° C. using a palladium hydroxide on carbon (20% w/w) cartridge. The resulting solution was concentrated to ˜10 mL, treated with Stratospheres™ PL-CO3 resin and stirred at room temperature for 30 min. The reaction mixture was filtered and the filtrate was concentrated to give the title compound (680 mg).

reactant | 4-(benzyloxycarbonylamino)phenylboronic acid | 5.79 mmol, 1.57 g | C(C1=CC=CC=C1)OC(=O)NC1=CC=C(C=C1)B(O)O | C14H14BNO4
reactant | ((S)-1-{(S)-2-[4-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 3.86 mmol, 1.74 g | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | N,N-dimethylformamide | 400 mmol, 30 mL | CN(C=O)C | C3H7NO
reactant | water | 1216 mmol, 21.91 mL | O | H2O
reactant | sodium bicarbonate | 28.96 mmol, 2.43 g | C([O-])(O)=O.[Na+]
solvent | methanol | 40 mL | CO | CH4O
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.41 mmol, 468 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | palladium hydroxide on carbon | [OH-].[OH-].[Pd+2]
product | ((S)-1-{(S)-2-[4-(4′-Amino-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 680 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=CC=C(C=C1)N)=O | C26H31N5O3
